US06890926B2
1-(3,5-dimethoxyphenyl)-4-(4-quinolyl-carbonyl)piperazine
2 g (11.5 mmol) of quinoline-4-carboxylic acid were suspended in 80 ml of DMF. With stirring, 1.74 g (17.2 mmol) of N-methylmorpholine and then a solution of 8.95 g (17.2 mmol) of Py-BOP (1-benzotriazolyltripyrrolidinophosphonium hexafluorophosphate) and 2.56 g (11.5 mmol) of 1-(3,5-dimethoxyphenyl)piperazine in 25 ml of DMF were added to this mixture. The mixture was stirred at RT for 12 h, the DMF was distilled off under reduced pressure and the residue was purified on a silica gel column (Kieselgel 60, from Merck AG, Darmstadt) using the mobile phase dichloromethane/methanol/25 percent ammonia (90:10:1 v/v/v).

reactant | quinoline-4-carboxylic acid | 11.5 mmol, 2 g | N1=CC=C(C2=CC=CC=C12)C(=O)O | C10H7NO2
reactant | N-methylmorpholine | 17.2 mmol, 1.74 g | CN1CCOCC1 | C5H11NO
reactant | BOP | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | 1-(3,5-dimethoxyphenyl)piperazine | 11.5 mmol, 2.56 g | COC=1C=C(C=C(C1)OC)N1CCNCC1 | C12H18N2O2
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 1-(3,5-dimethoxyphenyl)-4-(4-quinolyl-carbonyl)piperazine | COC=1C=C(C=C(C1)OC)N1CCN(CC1)C(=O)C1=CC=NC2=CC=CC=C12 | C22H23N3O3
